US08912186B2
By a procedure similar to that of example 1.59.1, starting from 3-chlorobenzaldehyde and acetophenone, 3-(3-chlorophenyl)-1-phenylprop-2-en-1-one was obtained as yellowish solid.

reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 3-(3-chlorophenyl)-1-phenylprop-2-en-1-one | ClC=1C=C(C=CC1)C=CC(=O)C1=CC=CC=C1 | C15H11ClO
